US07297795B2
To a suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide (900 mg, 3.46 mmol) in 100 mL of iso-propanol was added 3-bromo-4-methoxyaniline (700 mg, 3.46 mmol). This mixture was heated to reflux and triethylorthoformate (3.3 mL, 19.8 mmol) was added dropwise. The reaction mixture was heated at reflux for 6 hours. The mixture was filtered while still warm and the collected white solid was washed with iso-propanol to give 376 mg of 3-bromo-4-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide, mp >250° C.; MS (ES) m/z 467.7, 469.9, 471.7 (M−H)−

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide | 3.46 mmol, 900 mg | C(#N)CC(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl | C10H8Cl2N2O2
reactant | 3-bromo-4-methoxyaniline | 3.46 mmol, 700 mg | BrC=1C=C(N)C=CC1OC | C7H8BrNO
reactant | triethylorthoformate | 19.8 mmol, 3.3 mL | C(C)OC(OCC)OCC | C7H16O3
solvent | iso-propanol | 100 mL | C(C)(C)O | C3H8O
product | 3-bromo-4-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide | 376 mg | BrC=1C=C(NC=C(C(=O)NC2=C(C=C(C(=C2)OC)Cl)Cl)C#N)C=CC1OC | C18H14BrCl2N3O3
